US05294618
trans-1,2,3,4,4a,5,6,10b-Octahydro-3-(4'-nitrobenzyl)benz[f]isoquinoline
Following the procedure of Example 3, step 4, 0.153 g (0.815 mmol) of crude trans-1,2,3,4,4a, 5,6,10b-octahydrobenz[f]isoquinoline in 10 ml of anhydrous DMF was reacted with 0.124 g (0.897 mmol) of anhydrous potassium carbonate and 0.184 g (0.852 mmol) of 4-nitrobenzyl bromide. Chromatography on flash silica, eluting with 30-40% ethyl acetate/petroleum ether, gave 0.052 g (20%) of the title product as a white solid. The hydrochloride salt was made using ethereal hydrogen chloride. Upon evaporation of the solvent and recrystallisation from ethanol/ethyl acetate/methanol, the title product hydrochloride was obtained as a white solid, m.p. 198°-201° C. NMR δ(D2O/CD3CN) 1.45-1.57 (1H, m), 1.61-1.74 (1H, m), 1.79-1.83 (2H, m), 2.60-2.69 (2H, m), 2.88-2.94 (3H, m), 3.20 (1H, t, of d), 3.44 (1H, m), 3.64 (1H, m), 4.44 (2H, d, J=2.9 Hz), 7.17-7.22 (3H, m), 7.26-7.28 (1H, m), 7.77 (2H, d, J=8.8 Hz), 8.34 (2H, d, J=8.8 Hz). m/z (CI+, NH3) 323 (M+H)+, 308 (M-O+H)+, 248, 211, 174, 133, 106. Analysis calcd. for C22H28ClN: C, 66.94; H, 6.46; N, 7.81%. Found: C, 66.83; H, 6.49; N, 7.81%.

reactant | trans-1,2,3,4,4a, 5,6,10b-octahydrobenz[f]isoquinoline | 0.815 mmol, 0.153 g | C1CNC[C@H]2CCC3=C([C@H]12)C=CC=C3 | C13H17N
reactant | potassium carbonate | 0.897 mmol, 0.124 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrobenzyl bromide | 0.852 mmol, 0.184 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | trans-1,2,3,4,4a,5,6,10b-Octahydro-3-(4'-nitrobenzyl)benz[f]isoquinoline | 0.052 g, 20% | [N+](=O)([O-])C1=CC=C(CN2C[C@H]3CCC4=C([C@@H]3CC2)C=CC=C4)C=C1 | C20H22N2O2
